US06602884B2
A solution of 940 mg of (3RS,4RS) and (3SR,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetic acid in 20 cm3 of methanol was cooled to a temperature in the region of −25° C., with stirring and under an inert atmosphere. 0.43 cm3 of thionyl chloride were added to this solution over 5 minutes. The mixture was brought to a temperature in the region of 20° C. while the stirring was continued for a further 1 hour 30 minutes. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then 30 cm3 of methanol were added. This series of operations was repeated 3 times. 920 mg of methyl (3RS,4RS) and (3SR,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate dihydrochloride were obtained in the form of a yellow foam.

reactant | (3SR,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-(tert-butyloxycarbonyl)piperidine-3-acetic acid | OC(CCC1C(CN(CC1)C(=O)OC(C)(C)C)CC(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | C25H33FN2O6
reactant | thionyl chloride | 0.43 cm3 | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 20 cm3 | CO | CH4O
product | (3SR,4RS)-4-[3-(R,S)-hydroxy-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-3-acetate dihydrochloride | Cl.Cl.OC(CCC1C(CNCC1)CC(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | InChI=1S/C20H25FN2O4.2ClH/c1-27-14-3-4-17-15(9-14)20(16(21)11-23-17)18(24)5-2-12-6-7-22-10-13(12)8-19(25)26;;/h3-4,9,11-13,18,22,24H,2,5-8,10H2,1H3,(H,25,26);2*1H
